US08735384B2
A mixture of (R)-6-bromo-N-(4-methoxybenzyl)-3-(3-methylmorpholino) quinolin-2-amine (0.064 g, 0.145 mmol), PdCl2(dppf)-CH2Cl2adduct (5.91 mg, 7.23 μmol), bis(pinacolato)diboron (0.044 g, 0.174 mmol), and potassium acetate (0.027 mL, 0.434 mmol) was purged with N2 for 10 min followed by the addition of dioxane (degassed with N2, 2 mL). The resulting mixture was heated at 85° C. for 16 h. The reaction went to completion, concentrated and then diluted with EtOAc and filtered. The solvent was removed to afford (R)—N-(4-methoxybenzyl)-3-(3-methylmorpholino)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinolin-2-amine that was used without purification.

reactant | (R)-6-bromo-N-(4-methoxybenzyl)-3-(3-methylmorpholino) quinolin-2-amine | 0.145 mmol, 0.064 g | BrC=1C=C2C=C(C(=NC2=CC1)NCC1=CC=C(C=C1)OC)N1[C@@H](COCC1)C | C22H24BrN3O2
reactant | bis(pinacolato)diboron | 0.174 mmol, 0.044 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.434 mmol, 0.027 mL | C(C)(=O)[O-].[K+]
product | (R)—N-(4-methoxybenzyl)-3-(3-methylmorpholino)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinolin-2-amine | COC1=CC=C(CNC2=NC3=CC=C(C=C3C=C2N2[C@@H](COCC2)C)B2OC(C(O2)(C)C)(C)C)C=C1 | C28H36BN3O4
